US05006515
Dimethyl 3-benzyl-2-isoxazolin-5-ylphosphonate (by procedure (a))
13.5 ml (0.124 mol) of phenyl isocyanate, 9.5 g (0.07 mol) of dimethyl vinylphosphonate and 1 ml of triethylamine are introduced into 120 ml of toluene. A solution of 9.3 g (0.062 mol) of 2-phenylnitroethane and 1 ml of triethylamine dissolved in 150 ml of toluene is added dropwise in 5 hours, the mixture is stirred overnight and then for 30 minutes after addition of 30 ml of concentrated aqueous ammonia, precipitated diphenylurea is removed by filtration and washed with ethyl acetate, and the combined organic phases are extracted by shaking successively with water, 2 N hydrochloric acid and water, and are dried and concentrated. 13.9 g of reddish brown oil remain.

reactant | phenyl isocyanate | 0.124 mol, 13.5 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | dimethyl vinylphosphonate | 0.07 mol, 9.5 g | C(=C)P(OC)(OC)=O | C4H9O3P
reactant | 2-phenylnitroethane | 0.062 mol, 9.3 g | C1(=CC=CC=C1)CC[N+](=O)[O-] | C8H9NO2
reactant | ammonia | 30 ml | N | H3N
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
product | Dimethyl 3-benzyl-2-isoxazolin-5-ylphosphonate | C(C1=CC=CC=C1)C1=NOC(C1)P(OC)(OC)=O | C12H16NO4P
